2170-11-17 08:03:00 Physician Resident Progress Note
Chief Complaint: Abd pain, nausea
   24 Hour Events:
 NUCLEAR MEDICINE - At [**2170-11-16**] 01:09 PM
   Pt went to Nuclear medicine for Gallbladder scan (HIDA) scan
 EKG - At [**2170-11-17**] 12:00 AM
   -HIDA yesterday with Significantly delayed visualization of small bowel
   and non visualization of the bile ducts suggesting  cholestasis.
   Therefore, unable to evaluate for cholecystitis
   -Discussions with IR, GI and surgery. Given 2u FFP and INR still 2.1.
   Ordered Vit K. Will reassess in am whether PTC or ERCP would be better
   for drainage. Page IR fellow at [**Numeric Identifier 3400**].
   -Switched cipro to aztreonam given that cipro with sotolol and prolong
   QT and sotolol needed for rhythm control of AF. Thus, abx currently
   flagyl, aztreonam, vanco
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillins
   "very sick";
   Iodine; Iodine Containing
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2170-11-16**] 04:00 PM
   Vancomycin - [**2170-11-16**] 06:38 PM
   Aztreonam - [**2170-11-17**] 03:43 AM
   Metronidazole - [**2170-11-17**] 03:43 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2170-11-16**] 04:15 PM
   Pantoprazole (Protonix) - [**2170-11-16**] 08:05 PM
   Other medications:
   Changes to medical and family history:none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever
   Cardiovascular: No(t) Chest pain, No(t) Edema
   Nutritional Support: NPO
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Neurologic: No(t) Headache
   Psychiatric / Sleep: No(t) Agitated, overnight, pt confusing and
   repeatedly trying to get OOB.
   Pain: [**3-13**] Mild
   Pain location: mid abd
   Flowsheet Data as of  [**2170-11-17**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.4
C (99.3
   HR: 88 (75 - 114) bpm
   BP: 94/43(67) {94/38(53) - 133/80(118)} mmHg
   RR: 19 (12 - 28) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  7,661 mL
                                                                    682 mL
   PO:
                                                                     50 mL
                                                                    150 mL
   TF:
   IVF:
                                                                  1,858 mL
                                                                    532 mL
   Blood products:
                                                                    553 mL
   Total out:
                                                                  2,300 mL
                                                                    520 mL
   Urine:
                                                                  2,300 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,361 mL
                                                                    162 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92%
   ABG: ///19/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Tender: to deep palpation
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   78 K/uL
   13.2 g/dL
   93 mg/dL
   1.0 mg/dL
   19 mEq/L
   3.6 mEq/L
   12 mg/dL
   109 mEq/L
   140 mEq/L
   39.6 %
   7.0 K/uL
        [image002.jpg]
                             [**2170-11-16**]  05:32 PM
                             [**2170-11-17**]  12:34 AM
   WBC
   10.3
   7.0
   Hct
   36.0
   39.6
   Plt
   104
   78
   Cr
   1.0
   1.0
   Glucose
   132
   93
   Other labs: PT / PTT / INR:22.4/38.0/2.1, ALT / AST:146/143, Alk Phos /
   T Bili:111/2.9, Differential-Neuts:90.1 %, Lymph:6.4 %, Mono:3.2 %,
   Eos:0.3 %, Albumin:3.4 g/dL, LDH:274 IU/L, Ca++:7.9 mg/dL, Mg++:1.8
   mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 CHOLECYSTITIS, ACALCULOUS
   Assessment: This is a an 84 y.o male with h.o afib, HTN, HL, h.o who
   presents with abdominal pain, found to have transient hypotension,
   transaminitis, signs of cholecystitis.
   .
   #abdominal pain-2 hours after eating, transaminitis, elevated bili, abd
   u/s seem to be c/w cholecystitis vs. cholangitis. Pt also febrile and
   transiently hypotensive in the ED to the 80'[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] involved,
   requesting HIDA scan unlikely to be a surgical candidate. Other
   etiologies of abdominal pain include AGE, PUD, hepatitis, cannot be
   appendicitis secondary to appy, colitis, vascular event such as
   mesenteric ischemia or other intraabdominal infection such as
   pyelonephritis, abscess.
   -HIDA scan to decide next step.
   -?PTC, d/w IR
   -GI recs
   -[**Doctor First Name 213**] recs
   -anti emetics
   -NPO
   -pain control
   -guaiac stools
   -abx, Cipro +flagyl
   .
   #cardiac
   -AS:severe based on echo. Hold lasix and [**Last Name (un) **] given infection and NPO.
   careful monitoring of I/O's and volume status. Endocarditis is on the
   differential, but unlikely at this point.
   -afib: anticoagulated, will reverse INR per GI request given possible
   need for intervention. Will place on tele, EKG, and resume
   anticoagulation once surgical intervention ruled out. Rate control with
   sotolol.
   -HTN:currently normo to hypotensive. Hold lasix, [**Last Name (un) **].
   -HL:continue statin.
   .
   #pulmonary.Pt has been followed by pulmonary for asbestos exposure and
   has been treated for MAC in the past. However, pt has eleted to d/c
   treatment for mac given side effects, in particular pancytopenias. Pt
   without O2 requirement at home. Last PFts showing Normal spirometry and
   lung volumes reduced DLCO suggesting a
   perfusion limitation.
   -wean o2 as tolerated
   -nebs prn
   .
   #hypotension-Currently normotensive. Pt hypotensive to 80's in ED.
   Given 5L IVF. Likely sources of hypotension include infection, such as
   cholec/cholangitis. CHF/cardiogenic vs. hypovolemia.
   -continue to monitor
   -i/o's, holding diuretics, given prn IV as needed.
   -abx, infectious w/u.
   -IVF as needed for MAP >65, would consider pressors if indicated.
   .
   #anxiety-lorazepam prn
   .
   #allergic rhinitis- Cont fexofenadine
   ICU Care
   Nutrition:  NPO for now for possible PTC or ERCP today
   Glycemic Control:  Glucose well controlled without insulin
   Lines:
   18 Gauge - [**2170-11-16**] 10:14 AM
   Prophylaxis:
   DVT:  INR has been elevated [**2-10**] chronic coumadin use, pneumoboots
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2170-11-17 09:03:00 Physician Attending Progress Note
Chief Complaint: cholecystitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 NUCLEAR MEDICINE - At [**2170-11-16**] 01:09 PM
   Pt went to Nuclear medicine for Gallbladder scan (HIDA) scan
 EKG - At [**2170-11-17**] 12:00 AM
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Penicillins
   "very sick";
   Iodine; Iodine Containing
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2170-11-16**] 04:00 PM
   Vancomycin - [**2170-11-16**] 06:38 PM
   Aztreonam - [**2170-11-17**] 03:43 AM
   Metronidazole - [**2170-11-17**] 03:43 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2170-11-16**] 04:15 PM
   Pantoprazole (Protonix) - [**2170-11-16**] 08:05 PM
   Other medications:
   statin, PPI, fexofen, Flagyl, aztreonam, vanco, sotalol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-11-17**] 08:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.4
C (99.3
   HR: 111 (75 - 114) bpm
   BP: 138/86(97) {94/38(53) - 138/86(118)} mmHg
   RR: 25 (12 - 28) insp/min
   SpO2: 91%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 68 Inch
             Total In:
                                                                  7,661 mL
                                                                    736 mL
   PO:
                                                                     50 mL
                                                                    150 mL
   TF:
   IVF:
                                                                  1,858 mL
                                                                    586 mL
   Blood products:
                                                                    553 mL
   Total out:
                                                                  2,300 mL
                                                                    520 mL
   Urine:
                                                                  2,300 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,361 mL
                                                                    216 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 91%
   ABG: ///19/
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : only very very scant
   crackles)
   Abdominal: Soft, mild RUQ discomfort
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   13.2 g/dL
   78 K/uL
   93 mg/dL
   1.0 mg/dL
   19 mEq/L
   3.6 mEq/L
   12 mg/dL
   109 mEq/L
   140 mEq/L
   39.6 %
   7.0 K/uL
        [image002.jpg]
                             [**2170-11-16**]  05:32 PM
                             [**2170-11-17**]  12:34 AM
   WBC
   10.3
   7.0
   Hct
   36.0
   39.6
   Plt
   104
   78
   Cr
   1.0
   1.0
   Glucose
   132
   93
   Other labs: PT / PTT / INR:22.4/38.0/2.1, ALT / AST:146/143, Alk Phos /
   T Bili:111/2.9, Differential-Neuts:90.1 %, Lymph:6.4 %, Mono:3.2 %,
   Eos:0.3 %, Albumin:3.4 g/dL, LDH:274 IU/L, Ca++:7.9 mg/dL, Mg++:1.8
   mg/dL, PO4:2.4 mg/dL
   Imaging: no new imaging
   Assessment and Plan
   84-year-old man with severe aortic stenosis now with apparent
   cholecystitis.  His falling bicarbonate and falling platelets are quite
   worrisome for worsening sepsis, although he remains hemodynamically
   stable.
 CHOLECYSTITIS, ACALCULOUS
   -          pursue percutaneous drainage today once INR is corrected
   -          continue antibiotics
   -          hold statin given elevated transaminases
 ATRIAL FIBRILLATION (AFIB)
   rhythm controlled on sotolol
 AORTIC STENOSIS
   -          severe
   -          careful preload management
 THROMBYOCYTOPENIA
   -          Likely secondary to sepsis
   -          Check DIC labs
 LOW BICARBONATE
   -          Check ABG
   -          Check lactate
   Get additional peripheral IV.  Does not require central access at
   present, but may need it later today.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2170-11-16**] 10:14 AM
   Prophylaxis:
   DVT: Boots(reversing warfarin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2170-11-18 06:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2170-11-17**] 04:34 PM
   Pt to US in stretcher for gallbladder drain placement. Transported by
   RN and coworker.
 FEVER - 101.2
F - [**2170-11-17**] 10:15 AM
   - Given 6 U FFP, IV vit K to reverse INR with Lasix diureses with to
   keep patient relatively even (+600)
   - Patient went for cholecystostomy, although clean bile draining out of
   ostomy -> Per IR, unlikely cholecystitis.
   - ? other infectious causes -> CXR with evolution of known MAC, Urine
   clear thus far - CMV, EBV, sent
   - statin d/c'd in setting of transaminitis
   Allergies:
   Penicillins
   "very sick";
   Iodine; Iodine Containing
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2170-11-16**] 04:00 PM
   Metronidazole - [**2170-11-17**] 07:55 PM
   Vancomycin - [**2170-11-17**] 07:55 PM
   Aztreonam - [**2170-11-17**] 08:39 PM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2170-11-17**] 05:15 PM
   Fentanyl - [**2170-11-17**] 05:15 PM
   Furosemide (Lasix) - [**2170-11-17**] 09:11 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-11-18**] 06:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.7
C (99.9
   HR: 81 (73 - 111) bpm
   BP: 136/77(87) {84/34(47) - 162/90(103)} mmHg
   RR: 17 (16 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  3,753 mL
                                                                    399 mL
   PO:
                                                                    250 mL
             TF:
   IVF:
                                                                  1,824 mL
                                                                    399 mL
   Blood products:
                                                                  1,679 mL
   Total out:
                                                                  3,100 mL
                                                                    530 mL
   Urine:
                                                                  2,900 mL
                                                                    530 mL
   NG:
   Stool:
   Drains:
                                                                    200 mL
   Balance:
                                                                    653 mL
                                                                   -131 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.41/35/85.[**Numeric Identifier 126**]/24/-1
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   58 K/uL
   11.4 g/dL
   118 mg/dL
   1.0 mg/dL
   24 mEq/L
   3.1 mEq/L
   11 mg/dL
   109 mEq/L
   142 mEq/L
   33.7 %
   4.5 K/uL
        [image002.jpg]
                             [**2170-11-16**]  05:32 PM
                             [**2170-11-17**]  12:34 AM
                             [**2170-11-17**]  08:06 AM
                             [**2170-11-17**]  09:41 AM
                             [**2170-11-17**]  07:45 PM
   WBC
   10.3
   7.0
   4.5
   Hct
   36.0
   39.6
   33.7
   Plt
   104
   78
   58
   Cr
   1.0
   1.0
   1.0
   1.0
   TCO2
   23
   Glucose
   132
   93
   90
   118
   Other labs: PT / PTT / INR:15.2/31.9/1.3, ALT / AST:88/73, Alk Phos / T
   Bili:93/1.4, Amylase / Lipase:/24, Differential-Neuts:86.6 %, Lymph:8.8
   %, Mono:4.1 %, Eos:0.4 %, Lactic Acid:0.9 mmol/L, Albumin:3.4 g/dL,
   LDH:173 IU/L, Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:1.6 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
   rhythm controlled on sotolol
 AORTIC STENOSIS
   severe
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 CHOLECYSTITIS, ACALCULOUS
   This is a an 84 y.o male with h.o afib, HTN, HL, h.o who presents with
   abdominal pain, found to have transient hypotension, transaminitis,
   signs of cholecystitis.
   .
   #Abdominal pain- AST and ALT coming down but Tbili remains 2.9.
   Physical exam is unimpressive and BP is stable but pt continues to run
   low-grade temps. Also, Bicarb and platelets trending down consistent
   with infection.  Pt will need PTC in IR today (they are aware) however
   INR stil 2.5.
   -IR to place PTC today. GI and surgery agree with this plan- appreciate
   their recs
   -4 units FFP to be given now with Lasix after first 2 units. Then,
   rechk INR and hopefully to go to IR.
   -NPO until after procedure
   -pain control
   -abx- Cipro changed to aztreonam in light of interaction with Sotalol.
   Cont flagyl and vanco .
   .
   #cardiac
   -AS:severe based on echo. Holding lasix and [**Last Name (un) **] given infection and
   NPO.
         - monitoring careful monitoring of I/O's and volume status.
   -afib: On tele, pt looked to have episode of AF overnight but switched
   back into sinus before a 12 lead EKG could be obtained. Reversing
   anticoagulation now for procedure and will resume anticoagulation once
   surgical intervention completed. Rhythm control with sotolol.
   -HTN:currently normotensive. Hold lasix, [**Last Name (un) **].
   -HL:continue statin.
   .
   #pulmonary.Pt has been followed by pulmonary for asbestos exposure and
   has been treated for MAC in the past. However, pt has elected to d/c
   treatment for mac given side effects, in particular pancytopenias. Pt
   without O2 requirement at home. Last PFts showing Normal spirometry and
   lung volumes reduced DLCO suggesting a perfusion limitation.
   -wean o2 as tolerated
   -nebs prn
   .
   #hypotension-Currently normotensive. Pt hypotensive to 80's in ED.
   Given 5L IVF. Likely [**2-10**] infection from cholecystitis/ possible
   ascending cholangitis. Unlikely CHF/ cardiogenic
   -continue to monitor
   -i/o's, holding diuretics.
   -abx as above
   .
   #anxiety-lorazepam prn
   .
   #allergic rhinitis- Cont fexofenadine
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2170-11-16**] 10:14 AM
   20 Gauge - [**2170-11-18**] 12:51 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2170-11-18 10:49:00 Physician Attending Progress Note
Chief Complaint: ?cholecystits
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   FEVER - 101.2
F - [**2170-11-17**] 10:15 AM
   Multiple FFP doses
   Underwent percutaneous cholecystotomy without incident.  Bile did not
   appear grossly infected, and the gallbladder wall edema appeared to
   have improved.
                                 History obtained from [**Hospital 15**] Medical records
   Allergies:
   Penicillins
   "very sick";
   Iodine; Iodine Containing
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2170-11-16**] 04:00 PM
   Vancomycin - [**2170-11-17**] 07:55 PM
   Metronidazole - [**2170-11-18**] 04:00 AM
   Aztreonam - [**2170-11-18**] 04:09 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2170-11-17**] 05:15 PM
   Fentanyl - [**2170-11-17**] 05:15 PM
   Pantoprazole (Protonix) - [**2170-11-17**] 08:10 PM
   Furosemide (Lasix) - [**2170-11-17**] 09:11 PM
   Other medications:
   PPI, [**Doctor First Name **], Flagyl, aztreonam, vanco, sotalol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Gastrointestinal: mild abdominal discomfort
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Signs or concerns for abuse : No
   Flowsheet Data as of  [**2170-11-18**] 10:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 35.7
C (96.3
   HR: 84 (73 - 104) bpm
   BP: 141/68(87) {84/34(47) - 162/90(103)} mmHg
   RR: 18 (16 - 26) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  3,753 mL
                                                                    639 mL
   PO:
                                                                    250 mL
             TF:
   IVF:
                                                                  1,824 mL
                                                                    639 mL
   Blood products:
                                                                  1,679 mL
   Total out:
                                                                  3,100 mL
                                                                    805 mL
   Urine:
                                                                  2,900 mL
                                                                    555 mL
   NG:
   Stool:
   Drains:
                                                                    200 mL
                                                                    250 mL
   Balance:
                                                                    653 mL
                                                                   -166 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: No(t) Wheezes : , Rhonchorous: )
   Abdominal: Soft, Non-tender, bile drain in place
   Extremities: Right: Absent edema, Left: Absent edema
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   11.8 g/dL
   61 K/uL
   103 mg/dL
   0.9 mg/dL
   26 mEq/L
   3.7 mEq/L
   11 mg/dL
   109 mEq/L
   141 mEq/L
   33.9 %
   3.9 K/uL
        [image002.jpg]
                             [**2170-11-16**]  05:32 PM
                             [**2170-11-17**]  12:34 AM
                             [**2170-11-17**]  08:06 AM
                             [**2170-11-17**]  09:41 AM
                             [**2170-11-17**]  07:45 PM
                             [**2170-11-18**]  06:11 AM
   WBC
   10.3
   7.0
   4.5
   3.9
   Hct
   36.0
   39.6
   33.7
   33.9
   Plt
   104
   78
   58
   61
   Cr
   1.0
   1.0
   1.0
   1.0
   0.9
   TCO2
   23
   Glucose
   132
   93
   90
   118
   103
   Other labs: PT / PTT / INR:15.3/32.8/1.3, ALT / AST:78/57, Alk Phos / T
   Bili:85/1.0, Amylase / Lipase:/24, Differential-Neuts:86.6 %, Lymph:8.8
   %, Mono:4.1 %, Eos:0.4 %, Lactic Acid:0.9 mmol/L, Albumin:3.3 g/dL,
   LDH:158 IU/L, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:1.6 mg/dL
   Imaging: see HPI re: U/S.
   Microbiology: Bile G/S negative
   ENZYMES & BILIRUBIN
                                     ALT
                                     AST
                                   LD(LDH)
                                   CK(CPK)
                                   AlkPhos
                                   Amylase
                                   TotBili
                                   DirBili
                                   IndBili
   [1][**2170-11-18**] 06:11AM
                                     78*
                                     57*
                                     158
   85
   1.0
   [2][**2170-11-17**] 07:45PM
                                     88*
                                     73*
                                     173
   93
   1.4
   [3][**2170-11-17**] 12:34AM
                                    146*
                                    143*
                                    274*
   111
   2.9*
   [4][**2170-11-16**] 05:32PM
                                    163*
                                    182*
   123*
   2.8*
   [5][**2170-11-16**] 06:45AM
                                    200*
                                    283*
   126*
   2.0*
                                    1.4*
                                     0.6
   [6][**2170-11-16**] 01:25AM
                                    114*
                                    205*
   154*
                                     95
                                    1.7*
   Assessment and Plan
   84-year-old man with severe aortic stenosis now with fever and LFT
   abnormalities.  We had been quite concerned about apparent
   cholecystitis.  The temporal resolution of his LFTs correlated very
   closely with gallbladder drainage.  However, the appearance of his bile
   and the resolution of gallbladder wall edema argue against this.  His
   platelet drop remains concerning but his other parameters have
   improved.
 CHOLECYSTITIS, ACALCULOUS
   -          This diagnosis is probably the most likely.  However, it is
   not completely certain.
   -          Substantial improvement in bilirubin, etc., immediately
   following drainage suggests that this was the right course to pursue.
   -          Holding statin given elevated transaminases
 should resume
   in future.
 FEVER
   -          Given improved appearance of GB on ultrasound and negative
   bile g/s, reasonable to assess for other etiologies
   -          Follow up cultures
   -          Send bile for AFB, given pt
s hx of [**Doctor First Name **]
   -          Repeat CXR
   -          Consult ID
 ATRIAL FIBRILLATION (AFIB)
          rhythm controlled on sotolol
          Once more stable, consider resuming anticoagulation
 AORTIC STENOSIS
   -          severe
   -          careful preload management
 THROMBYOCYTOPENIA
   -          Likely secondary to sepsis, though ABX also possible
   -          Appears to have plateaued
 ACIDOSIS
   -          Resolved
   ICU Care
   Nutrition: begin limited clears
   Glycemic Control:
   Lines:
   18 Gauge - [**2170-11-16**] 10:14 AM
   20 Gauge - [**2170-11-18**] 12:51 AM
   Prophylaxis:
   DVT: Boots(Heparin held due to thrombocytopenia)
   Stress ulcer:  not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : Transfer to floor
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_9%22);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_10%22);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_11%22);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_12%22);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_13%22);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_14%22);